US06887875B2
A mixture of 2-chloro-4-methoxy-6-methylpyrimidin-5-ol (348 mg, 2.0 mmol), 2-methoxy-4,6-dimethylphenylboronic acid (540 mg, 3.0 mmol), tetrakis(triphenylphosphine)palladium (0) (115 mg, 5 mol %) in toluene (12 mL) and sodium carbonate (1M in water, 4 mL) is heated at 95° C. (oil bath temperature) in a pressure tube for 14 hours. The reaction is cooled to room temperature, diluted with ethyl acetate, washed with NaOH (2M) and then brine (2×50 mL). The solvents are dried (sodium sulfate) and removed under reduced pressure. Flash chromatography of the crude product (50% ethyl acetate in hexanes) yields 4-methoxy-2-(6-methoxy-2,4-dimethylphenyl)-6-methylpyrimidin-5-ol as a white solid.

reactant | 2-chloro-4-methoxy-6-methylpyrimidin-5-ol | 2.0 mmol, 348 mg | ClC1=NC(=C(C(=N1)OC)O)C | C6H7ClN2O2
reactant | 2-methoxy-4,6-dimethylphenylboronic acid | 3.0 mmol, 540 mg | COC1=C(C(=CC(=C1)C)C)B(O)O | C9H13BO3
solvent | toluene | 12 mL | C1(=CC=CC=C1)C | C7H8
solvent | sodium carbonate | 1M, 4 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 115 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-methoxy-2-(6-methoxy-2,4-dimethylphenyl)-6-methylpyrimidin-5-ol | COC1=NC(=NC(=C1O)C)C1=C(C=C(C=C1OC)C)C | C15H18N2O3
